US09062092B2
Compound 95e. 2,2-Dimethyl-but-3-enoic acid ((S)-2-{(S)-3-[(R)-1-(7-bromo-quinolin-2-yl)-ethylcarbamoyl]-tetrahydro-pyridazin-1-yl}-1-methyl-2-oxo-ethylcarbamoyl)-oxetan-3-yl-methyl ester
A stirred solution of (S)-1-((S)-2-amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (141 mg, 0.618 mmol) and 2,2-dimethyl-but-3-enoic acid carboxy-oxetan-3-yl-methyl ester (315 mg, 0.725 mmol) in anhydrous N,N-dimethylformamide (10 mL) was cooled to 0° C. under nitrogen. 2,2,6,6-Tetramethylpiperidine (261 mg, 313 μL, 1.85 mmol) was added, rapidly followed by (1-cyano-2-ethoxy-2-oxoethylidenaminooxy)dimethylamino-morpholino-carbenium hexafluorophosphate (371 mg, 0.865 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 15 h. The reaction mixture was diluted with dichloromethane and washed with saturated ammonium chloride solution (2×), saturated sodium bicarbonate solution (2×), the organic layer was filtered through a phase-separator and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 1:0 to 0:1 to give the title compound (167 mg, 42%) as a yellow/brown foam and as an approximate 1:1 mixture of diastereoisomers. LCMS (m/z) 644.2, 646.1[M+H], Tr=2.63 min.

reactant | (S)-1-((S)-2-amino-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.618 mmol, 141 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)N)=O | C19H24BrN5O2
reactant | 2,2-dimethyl-but-3-enoic acid carboxy-oxetan-3-yl-methyl ester | 0.725 mmol, 315 mg | C(=O)(O)C(C1COC1)OC(C(C=C)(C)C)=O | C11H16O5
reactant | 2,2,6,6-Tetramethylpiperidine | 1.85 mmol, 313 μL, 261 mg | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | (1-cyano-2-ethoxy-2-oxoethylidenaminooxy)dimethylamino-morpholino-carbenium hexafluorophosphate | 0.865 mmol, 371 mg | F[P-](F)(F)(F)(F)F.C(#N)C(C(=O)OCC)=NO[C+](N1CCOCC1)N(C)C
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2-Dimethyl-but-3-enoic acid ((S)-2-{(S)-3-[(R)-1-(7-bromo-quinolin-2-yl)-ethylcarbamoyl]-tetrahydro-pyridazin-1-yl}-1-methyl-2-oxo-ethylcarbamoyl)-oxetan-3-yl-methyl ester | 167 mg, 42% | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC(=O)C(C1COC1)OC(C(C=C)(C)C)=O)=O | C30H38BrN5O6
